US04816452
a. Ethyl (Z)-2-(cis-4-chlorocyclohexyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate (3.18 g) was treated with trans-4-chlorocyclohexanol as described in Example 4a, method 3 to give the title compound as a colourless oil (2.02 g). (Found: MH+, 276.0995. C12H19ClNO4 requires MH+, 276.1002; δH (CDCl3) 1.36 (3H, t, J 7H), 1.79, 1.96 and 2.09 (8H, 3m), 2.40 (3H, s), 4.11 (1H, qt, J 6 Hz), 4.38 (2H, q, J 7 Hz), and 4.41 (1H, qt, J 6 Hz). A small quantity of the trans-isomer was obtained from faster-eluting column fractions.

reactant | Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate | 3.18 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | trans-4-chlorocyclohexanol | Cl[C@@H]1CC[C@H](CC1)O | C6H11ClO
product | Ethyl (Z)-2-(cis-4-chlorocyclohexyloxyimino)-3-oxobutyrate | 2.02 g | Cl[C@H]1CC[C@H](CC1)O\N=C(/C(=O)OCC)\C(C)=O | C12H18ClNO4
